Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C:2](/[C:3](=[C:4](\[C:5]([C:6](=[O:7])[H:15])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],83.6903441564472
[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C:2]([O:3][H:12])([H:11])[H:15])([H:8])([H:9])[H:10].[C:4](=[O:5])([H:13])[H:14],81.1096236246128
[N:1]([C:2](=[O:3])[H:8])([C:6](=[C:5]=[C:4]([H:9])[H:10])[H:11])[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7],49.88389194465451
[O:1]=[C:2]=[C:7]1[C@:5]([C:4]([N:3]([H:8])[H:12])([H:9])[H:10])([H:11])[O:6]1>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12],58.483264568756404
[C:1](=[C:2]1[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])[H:10].[H:9][H:11]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10],78.2819811984714
[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][H:13])[H:12])([H:6])([H:7])[H:8]>>[C:1]([H:6])([H:7])([H:8])[H:10].[C:2]1([H:9])=[C:3]([H:11])[C:4]1([O:5][H:13])[H:12],111.882039036608
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C:6](=[O:7])[N:5]1[H:15])([H:8])([H:9])[H:10].[H:14][H:16]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],70.01764108005526
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C-:4]#[O+:5].[C:1]([N:2]=[C:3]([H:12])[H:13])([H:8])([H:9])[H:10].[O:6]([C:7]([H:14])([H:15])[H:16])[H:11],58.0278256075267
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C@:2]([C:3](=[O:4])[H:11])([H:10])[C:5][C:6]1([H:7])[H:12],92.28702611475781
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([O+:7]=[C-:6][H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],106.521942347908
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C+:1]([N:2]([C+:3]([O-:4])[C@@:5]([C:6]([H:13])([H:14])[H:15])([C-:7]([H:17])[H:18])[H:12])[H:11])([H:9])[H:10].[H:8][H:16],87.63634421517722
[C:1]([C:2](/[C:3](=[C:5](\[O:6][H:16])[H:15])[H:11])([C:4]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([O:6][H:16])[H:15])([H:7])([H:8])[H:9],99.092451344062
[C:1]1([H:8])=[C:2]([H:9])[C:6]1([C:5]([H:7])([H:14])[H:15])[H:16].[C:3](=[C:4]([H:12])[H:13])([H:10])[H:11]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C@:6]12[H:16],60.1727164224188
[N:1]1([H:7])[C:2]2([C:3]([H:9])([H:10])[C:4]2([H:11])[H:12])/[C:5]1=[N:6]/[H:8]>>[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8],47.305081628737895
[C:1]([C:2][C@:3]1([H:16])[C@@:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:6]1([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],29.994952713405404
[O:1]=[C:2]([C:3]([C:4]([N:5]([H:6])[H:12])([H:10])[H:11])([H:7])[H:9])[H:8]>>[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6],64.2923733712918
[C:1]([C@@:2]1([H:11])[C@:3]([N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],46.71200194140369
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[C:2]1([H:7])=[C:5]([H:10])[O:4][C:3]1([H:8])[H:9].[O:1]=[O:6],198.14337502403802
[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7]>>[C:4](=[C:5]([H:13])[H:14])([H:11])[H:12].[O:1]([C:2]([C:3](=[O:6])[H:10])([H:8])[H:9])[H:7],52.423503416988
[C:1]([C:2]1([N:4]([C:5][H:11])[H:10])[O:3][O:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],47.421430481868015
[C:1]([O+:2]=[C-:3][H:9])([H:6])([H:7])[H:8].[C:4]=[N:5][H:10]>>[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8],1.525112981954905
[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7]>>[O-:1][O:6][C:5](=[O+:4][C:3]#[C:2][H:7])[H:8],163.817043343292
[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([O:6][H:16])[H:15])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:9])[H:10])([H:7])[H:8].[C:3](\[C:4]([H:12])([H:13])[H:14])(=[C:5](\[O:6][H:16])[H:15])[H:11],76.0489249679831
[C:1](#[C:2][C:3](=[C:4]([H:9])[H:10])[H:8])[H:7].[C:5](=[O:6])([H:11])[H:12]>>[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],48.042281483689095
